US05157026
tert-Butyllithium (0.978 mL, 1.7M/pentane) was added to a cooled (-78° C.) THF (5 mL) solution of 7-methyl-2-propylimidazo[4,5-b]pyridine (97 mg, 0.554 mmol). After 2 hour the reaction was warmed to 0° C. for 1 minute then cooled back to -78° C. MeI (0.172 mL) was added, the mixture was stirred at -78° C. for 1 hour then warmed to 0° C. for 1 minute and then quenched (NH4OH). Extractive workup and purification (SiO2, 2% MeOH/ EtOAc) gave 85 mg of 7-ethyl-2-propylimidazo[4,5-b]pyridine which was converted to the title compound as outlined in Example 7, Part B.

reactant | tert-Butyllithium | 1.7M, 0.978 mL | C(C)(C)(C)[Li]
reactant | 7-methyl-2-propylimidazo[4,5-b]pyridine | 0.554 mmol, 97 mg | CC1=C2C(=NC=C1)N=C(N2)CCC | C10H13N3
reactant | MeI | 0.172 mL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-ethyl-2-propylimidazo[4,5-b]pyridine | 85 mg | C(C)C1=C2C(=NC=C1)N=C(N2)CCC | C11H15N3
